US08084448B2
B. 5-{4-[(E)-2-(1-Acetylpiperidin-2-yl)-vinyl]-2-benzyloxyphenyl}-1,1-dioxo-2-(2-trimethylsilanyl-ethyl)-1,2,5-thiadiazolidin-3-one
To a solution of 5-[2-benzyloxy-4-((E)-2-piperidin-2-yl-vinyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (101 mg, 0.192 mmol) in methylene chloride (4 mL) is added triethylamine (0.134 mL, 0.956 mmol). The solution is stirred at RT for 5 min the acetyl chloride (0.0163 mL, 0.23 mmol) is added and stirring is continued for 18 h. The mixture is diluted with EtOAc and is washed with 1N HCl and brine. The organic phase is dried over sodium sulfate and the solvent removed under reduced pressure to give the title compound.

reactant | 5-[2-benzyloxy-4-((E)-2-piperidin-2-yl-vinyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.192 mmol, 101 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)\C=C\C1NCCCC1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C27H37N3O4SSi
reactant | triethylamine | 0.956 mmol, 0.134 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.23 mmol, 0.0163 mL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-{4-[(E)-2-(1-Acetylpiperidin-2-yl)-vinyl]-2-benzyloxyphenyl}-1,1-dioxo-2-(2-trimethylsilanyl-ethyl)-1,2,5-thiadiazolidin-3-one | C(C)(=O)N1C(CCCC1)/C=C/C1=CC(=C(C=C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O)OCC1=CC=CC=C1 | C29H39N3O5SSi
